US06861424B2
To a solution of 2-[carboxymethylcarbonyl][(1,1-dimethylethoxycarbonyl)methyl]aminonaphthalene (270 mg, 0.78 mmol) in CH2Cl2 (50 mL) was added triethylamine (0.33 mL, 2.36 mmol) and 1-hydroxybenzotriazole (HOBT) (128 mg, 0.91 mmol) and 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide (EDCI) (238 mg, 1.23 mmol). After 5 minutes, 1-ethoxycarbonylpiperazine (0.12 mL, 0.78 mmol) was added and the reaction mixture was stirred overnight. The reaction mixture was evaporated in vacuo to afford an oil, which was dissolved in ethyl acetate, and washed with saturated NaHCO3, 1 M NaHSO4 and brine. The organic layer was evaporated in vacuo and the crude product was purified by flash column to afford 2-[((4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl)carbonyl][(1,1-dimethylethoxycarbonyl)methyl]aminonaphthalene (147 mg).

reactant | 2-[carboxymethylcarbonyl][(1,1-dimethylethoxycarbonyl)methyl]aminonaphthalene | 0.78 mmol, 270 mg | C(=O)(O)CC(=O)C1=C(C2=CC=CC=C2C=C1)NCC(=O)OC(C)(C)C | C19H21NO5
reactant | triethylamine | 2.36 mmol, 0.33 mL | C(C)N(CC)CC | C6H15N
reactant | 1-hydroxybenzotriazole | 0.91 mmol, 128 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 1.23 mmol, 238 mg | CN(CCCN=C=NCC)C | C8H17N3
reactant | 1-ethoxycarbonylpiperazine | 0.78 mmol, 0.12 mL | C(C)OC(=O)N1CCNCC1 | C7H14N2O2
solvent | CH2Cl2 | 50 mL | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-[((4-(ethoxycarbonyl)piperazin-1-yl)carbonylmethyl)carbonyl][(1,1-dimethylethoxycarbonyl)methyl]aminonaphthalene | 147 mg | C(C)OC(=O)N1CCN(CC1)C(=O)CC(=O)C1=C(C2=CC=CC=C2C=C1)NCC(=O)OC(C)(C)C | C26H33N3O6
